US07572809B2
Similar procedure as described in example 10 was used, starting from methanol and (1-chloro-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine to give (1-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine. LC-MS m/e 255 (MH+).

reactant | (1-chloro-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC=CC=C12)NC1=NNC(=C1)C | C13H11ClN4
reactant | methanol | CO | CH4O
product | (1-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | COC1=NC(=CC2=CC=CC=C12)NC1=NNC(=C1)C | C14H14N4O
